US08791142B2
Step 1) 5-chloro-6-[(2-methoxyethyl)amino]nicotinonitrile
A mixture of 2-methoxyethyl amine (4.11 mL, 43.9 mmol), TEA (6.11 mL, 43.9 mmol) and 5,6-dichloronicotinonitrile (Bionet GC-0755, 7.6 g, 43.9 mmol) was prepared in dioxane and stirred at RT for 24 hours. The reaction mixture was filtered to remove inorganic solids and filtrate was concentrated under reduced pressure. The residue taken up with EtOAc (100 mL) and washed with water (3×100 mL). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. After purification by flash chromatography (silica, pet ether/EtOAc), the title compound was obtained as a white powder (6.9 g, 75%). LC/MS, M+(ESI): 212.1. 1H NMR (DMSO-d6, 400 MHz) δ 8.42 (1H, d), 8.07 (1H, d), 7.48 (1H, t), 3.58 (2H, m), 3.47 (2H, m), 3.23 (3H, s).

reactant | 2-methoxyethyl amine | 43.9 mmol, 4.11 mL | COCCN | C3H9NO
reactant | 5,6-dichloronicotinonitrile | 43.9 mmol, 7.6 g | ClC=1C(=NC=C(C#N)C1)Cl | C6H2Cl2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-chloro-6-[(2-methoxyethyl)amino]nicotinonitrile | ClC=1C(=NC=C(C#N)C1)NCCOC | C9H10ClN3O
